US05959106
5. Preparation of N-(4-Chloro-2,6-difluorophenyl)-8-fluoro-5-methoxy[1,2,4]triazolo[1,5-c]pyrimidine-2-sulfonamide
A mixture of 24.0 g (147 mmol) of 4-chloro-2,6-difluoroaniline and 22.9 g of 1,2-propanediol was placed in a round bottom flask and heated to 35° C. with stirring. A mixture of 14.5 g (49 mmol) of 88 percent purity 2-chlorosulfonyl-8-fluoro-5-methoxy[1,2,4]triazolo[1,5-c]pyrimidine with 29.1 g of dichloromethane was prepared and was added in 1 mL shots over a 4 hour period. The resulting mixture was heated another 4 hours and was then stirred overnight at ambient temperature. It was then cooled to about 20° C. and filtered, collecting the solids present. The solids were slurried in 30 mL of a 1:1 mix of 2-propanol and water, collected by filtration, washed with 2×30 mL of 2-propanol, and air dried to obtain 14.8 g (75 percent of theory) of the title compound as a white powder of 98 percent purity melting at 203-204° C.

reactant | 4-chloro-2,6-difluoroaniline | 147 mmol, 24.0 g | ClC1=CC(=C(N)C(=C1)F)F | C6H4ClF2N
reactant | 1,2-propanediol | 22.9 g | C(C(C)O)O | C3H8O2
reactant | 2-chlorosulfonyl-8-fluoro-5-methoxy[1,2,4]triazolo[1,5-c]pyrimidine | ClS(=O)(=O)C1=NN2C(=NC=C(C2=N1)F)OC | C6H4ClFN4O3S
solvent | dichloromethane | 29.1 g | ClCCl | CH2Cl2
product | N-(4-Chloro-2,6-difluorophenyl)-8-fluoro-5-methoxy[1,2,4]triazolo[1,5-c]pyrimidine-2-sulfonamide | ClC1=CC(=C(C(=C1)F)NS(=O)(=O)C1=NN2C(=NC=C(C2=N1)F)OC)F | C12H7ClF3N5O3S
